US05372980
Dimethylchlorosilane (6.8 mL, 60 mmol) in CH2Cl2 (10 mL) was added by dropping funnel over 10 minutes to a mixture of 1,7-octadiene (4.5 mL, 30 mmol) and bis(tetrabutylammonium)hexachloroplatinate (272 mg, 0.3 mmol). After 3 hours at room temperature, the solvent was removed in vacuo and the residue taken up in pentane. The majority of the catalyst was removed by filtration under nitrogen and the filtrate was concentrated in vacuo to provide as an oily liquid 1,8 bis(chlorodimethyl silyl) octane 1H NMR (200 MHz, CDCl3)δ 1.94-1.75 (m,10H), 0.80 (t,4H), 0.40 (s.12H).

reactant | Dimethylchlorosilane | 60 mmol, 6.8 mL | C[SiH](Cl)C | C2H7ClSi
reactant | 1,7-octadiene | 30 mmol, 4.5 mL | C=CCCCCC=C | C8H14
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | bis(tetrabutylammonium)hexachloroplatinate | 0.3 mmol, 272 mg | CCCC[N+](CCCC)(CCCC)CCCC.CCCC[N+](CCCC)(CCCC)CCCC.Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 1,8 bis(chlorodimethyl silyl) octane | 60% yield | Cl[Si](CCCCCCCC[Si](C)(C)Cl)(C)C | C12H28Cl2Si2
